Unit Test for .OPTIONS DEVICE DIGINITSTATE for JKFF and TFF Digital Devices
***************************************************************
* For .OPTIONS DEVICE DIGINITSTATE=0, test that:
*    1) Q="low" and Qbar="high"
*    2) IC1=TRUE or IC2=FALSE override the DIGINITSTATE for Q
*       or Qbar, respectively
***************************************************************
.OPTIONS DEVICE DIGINITSTATE=0

* Analysis Commands
.DC V5 0 3 3 V4 0 3 3 V3 0 3 3 V2 0 3 3 V1 0 3 3

* Sources, used to toggle inputs at gates
V1 in_pre 0 3V
V2 in_clr 0 3V
V3 in_clk 0 3V
V4 in_TJ 0 3V
V5 in_K 0 3V

* Output
.print DC v(in_pre) v(in_clr) v(in_clk) v(in_TJ) v(in_K) 
+ v(out1_q) v(out1_qbar) v(out2_q) v(out2_qbar) v(out3_q) v(out3_qbar) 
+ v(out4_q) v(out4_qbar) v(out5_q) v(out5_qbar) v(out6_q) v(out6_qbar) 

* Devices

* JKFF
UJKFF1 JKFF dig_pn 0 in_pre in_clr in_clk in_TJ in_K out1_q out1_qbar DMOD
Rq1 out1_q 0 100K
Rqbar1 out1_qbar 0 100K

UJKFF2 JKFF dig_pn 0 in_pre in_clr in_clk in_TJ in_K out2_q out2_qbar DMOD IC1=TRUE
Rq2 out2_q 0 100K
Rqbar2 out2_qbar 0 100K

UJKFF3 JKFF dig_pn 0 in_pre in_clr in_clk in_TJ in_K out3_q out3_qbar DMOD IC2=FALSE
Rq3 out3_q 0 100K
Rqbar3 out3_qbar 0 100K

* TFF
UTFF1 TFF dig_pn 0 in_TJ in_clk out4_q out4_qbar DMOD
Rq4 out4_q 0 100K
Rqbar4 out4_qbar 0 100K

UTFF2 TFF dig_pn 0 in_TJ in_clk out5_q out5_qbar DMOD IC1=TRUE
Rq5 out5_q 0 100K
Rqbar5 out5_qbar 0 100K

UTFF3 TFF dig_pn 0 in_TJ in_clk out6_q out6_qbar DMOD IC2=FALSE
Rq6 out6_q 0 100K
Rqbar6 out6_qbar 0 100K

* Set digital default parameters:
.param R1HI=5 R1LO=200 R0HI=200 R0LO=5 RIN=1000 R1=100
.param SW=5.e-9  CAPOUT=1.e-12  CAPIN=1.e-12
.param V_LO=0 V_HI=3

* Digital power and reference node
VPN dig_pn 0 3V 

.model DMOD DIG ( CLO=CAPOUT  CHI=CAPOUT
+ S0RLO=R0LO  S0RHI=R0HI  S0TSW=SW
+ S0VLO=-1  S0VHI=1.8
+ S1RLO=R1LO  S1RHI=R1HI  S1TSW=SW
+ S1VLO=1  S1VHI=3
+ RLOAD=RIN   CLOAD=CAPIN 
+ DELAY=20ns )

.end
